US07241791B2
4-{6-hydroxy-1-[4-(trifluoromethoxy)phenyl]-1H-indazol-3-yl}benzene-1,3-diol
Prepared according to Method B from 2,2′,4,4′-tetrahydroxybenzophenone (0.123 g, 0.5 mmol), sodium acetate (0.041 g, 0.5 mmol) and 4-trifluoromethoxyphenylhydrazine hydrochloride (0.114 g, 0.5 mmol) to give 0.045 g of product as a tan solid.

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 0.5 mmol, 0.123 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | sodium acetate | 0.5 mmol, 0.041 g | C(C)(=O)[O-].[Na+]
reactant | 4-trifluoromethoxyphenylhydrazine hydrochloride | 0.5 mmol, 0.114 g | Cl.FC(OC1=CC=C(C=C1)NN)(F)F
product | 4-{6-hydroxy-1-[4-(trifluoromethoxy)phenyl]-1H-indazol-3-yl}benzene-1,3-diol | 0.045 g | OC1=CC=C2C(=NN(C2=C1)C1=CC=C(C=C1)OC(F)(F)F)C1=C(C=C(C=C1)O)O | C20H13F3N2O4
